US05654326
Using the procedure described in Example 1, Part E, 2-ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole (1.58 g, 6.2 mmol) was treated with 248 mg (6.2 mmol) of 60% NaH/mineral oil and then 0.6 mL(6.2 mmol) of methyl bromoacetate. The product was purified by chromatography over silica gel eluting with 20% EtOAc/hexane, to give 1.37 g (69% yield) of [[2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester, 89°-92° C.

reactant | 2-ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole | 6.2 mmol, 1.58 g | C(C)C=1N(C2=CC=CC(=C2C1)O)CC1=CC=CC=C1 | C17H17NO
reactant | NaH | 6.2 mmol, 248 mg | [H-].[Na+]
reactant | methyl bromoacetate | 6.2 mmol, 0.6 mL | BrCC(=O)OC | C3H5BrO2
product | [[2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester | 1.37 g, 69% yield | COC(COC1=C2C=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)=O | C20H21NO3
